US05272172
Methyl (4aS, 7aS)-1-hydroxy-7-methylene-1, 4a, 5, 6, 7a-pentahydrocyclopenta[c]pyran-4-carboxylate (2.0 g, 0.0095 mol) obtained in Example 22 wad dissolved in 40 ml of tetrahydrofuran, and after sodium boron hydride (1.8 g, 0.047 mol) was added, the reaction mixture was heated and refluxed at 80° C. 9.5 ml of methanol wad added dropwise to this solution in the course of 1 hour, and the reaction mixture was stirred further at the same temperature. 50 ml of saturated ammonium chloride solution wad added to the reaction mixture. After an organic solvent was once distilled off, the aqueous layer was extracted by ethyl acetate (100 ml×3). The organic layer was joined, and was dried by adding magnesium sulfate, filtered, and thereafter concentrated under a reduced pressure. The residual matter was purified by chromatography using silica gel, and the solvent of the fraction obtained from ether:ethyl acetate=3:7 eluent was distilled off. A colorless oily substance was thus obtained, i.e., 2-[(1R, 2R)-2-(hydroxymethyl)-3-methylenecyclopent-1-yl]-ethane-1-ol (450 mg, yield=30.2%). This 2-[(1R, 2R)-2-(hydroxymethyl)-3-methylcyclopent-1-yl]-ethane-1-ol had the following physicochemical properties:

reactant | sodium boron hydride | 0.047 mol, 1.8 g | B.[Na]
reactant | methanol | 9.5 ml | CO | CH4O
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-[(1R, 2R)-2-(hydroxymethyl)-3-methylenecyclopent-1-yl]-ethane-1-ol | 450 mg, yield=30.2% | OC[C@@H]1[C@H](CCC1=C)CCO | C9H16O2
